US09238640B2
To a 0° C. solution of tert-butyl 4-(isopropylamino)piperidine-1-carboxylate (1.2 g, 5.19 mmol) in CH2Cl2 (18 mL) was added Et3N (1.44 mL, 10.38 mmol) followed by acetyl chloride (0.55 mL, 7.78 mmol). The resulting solution was stirred for 2.5 hours, then concentrated in vacuo. The material was purified by flash chromatography on silica gel, eluting with 0% to 5% of EtOAc/CH2Cl2, to afford tert-butyl 4-(N-isopropylacetamido)piperidine-1-carboxylate (0.88 g, 59%).

reactant | tert-butyl 4-(isopropylamino)piperidine-1-carboxylate | 5.19 mmol, 1.2 g | C(C)(C)NC1CCN(CC1)C(=O)OC(C)(C)C | C13H26N2O2
reactant | Et3N | 10.38 mmol, 1.44 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 7.78 mmol, 0.55 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(N-isopropylacetamido)piperidine-1-carboxylate | 0.88 g, 59% | C(C)(C)N(C(C)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C15H28N2O3
